US07563793B2
Preparation of 4-ethyl-6-methyl-4,5-dihydropyrrolo[1,2-a]quinoxaline
The title compound was prepared 3-methyl-2-nitro aniline according to the sequence of Examples 1 and 2, and the resulting oil treated with proprionaldehyde according to the procedure of Example 3 to yield a brown solid, mp 65-68° C.

reactant | 3-methyl-2-nitro aniline | CC=1C(=C(N)C=CC1)[N+](=O)[O-] | C7H8N2O2
reactant | proprionaldehyde | C(CC)=O | C3H6O
product | 4-ethyl-6-methyl-4,5-dihydropyrrolo[1,2-a]quinoxaline | C(C)C1C=2N(C3=CC=CC(=C3N1)C)C=CC2 | C14H16N2
